US05412057
A. Synthesis of the bis(Anhydride Ester) of 4,4-Dihydroxy-alpha-methylstilbene
Trimellitic anhydride chloride (10.53 grams, 0.05 mole) and anhydrous 1,4-dioxane (400 milliliters) are added to a reactor and maintained under a nitrogen atmosphere with stirring to provide a solution. The resultant solution is cooled in an ice bath to 12° C., then a solution of 4,4'-dihydroxy-alpha-methylstilbene (5.66 grams, 0.05 hydroxyl equivalent), anhydrous 1,4-dioxane (50 milliliters) and pyridine (0.05 mole, 3.96 grams) is added dropwise to the reactor from a pressure equalizing addition funnel at a rate so as to maintain the temperature at 10°-12° C. The 4,4'-dihydroxy-alpha-methylstilbene used contains 98.8 area percent of the diphenol and 1.2 area percent of a single dimeric component as determined by high pressure liquid chromatographic analysis (uv detector set at 254 nm). After 70 minutes, addition of the solution is completed. After and additional 11 minutes, the ice bath cooling the reactor exterior is removed and the product slurry is allowed to warm to 19° C. over the next 236 minutes. The product slurry is filtered under a nitrogen atmosphere through a bed of diatomaceous earth with washing of the filter cake using anhydrous 1,4-dioxane (250 milliliters). The clear filtrate is concentrated to approximately 100 milliliters total volume via removal of 1,4-dioxane by rotary evaporation at 90° C. under vaccuum. The resultant slurry of crystalline product is held under a nitrogen atmosphere for 24 hours followed by filtration to recover the solid product. After drying in a vacuum oven at 100° C. and 1 mm Hg the product is recovered at a constant weight of 9.3 grams of light yellow colored powder. During the drying process, a minor amount of pyridine hydrochloride sublimed out of the product. Fourier transform infrared spectrophotometric analysis of a potassium chloride pellet of the product demonstrated the presence of anhydride carbonyl group absorbances (1868 and 1782 (with 1815 as a shoulder) cm-1) and the ester carbonyl group absorbance (1742 cm-1). Proton magnetic resonance spectroscopy additionally confirms the product structure.

reactant | 4,4'-dihydroxy-alpha-methylstilbene | 5.66 grams | OC1=CC=C(C=C1)C(=CC1=CC=C(C=C1)O)C | C15H14O2
reactant | pyridine | 0.05 mole, 3.96 grams | N1=CC=CC=C1 | C5H5N
reactant | diphenol | C1=CC=C(C(=C1)C2=CC(=CC=C2)O)O | C12H10O2
solvent | 1,4-dioxane | 50 milliliters | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 400 milliliters | O1CCOCC1 | C4H8O2
product | 4,4-Dihydroxy-alpha-methylstilbene | OC1(CC=C(C=C1)C(=CC1=CC=CC=C1)C)O | C15H16O2
